### ISSUE TITLE
[`SimpleGraph/Walks/Operations`] `take` and `drop`

### ISSUE THREAD

**Issue by SnirBroshi** [SnirBroshi/mathlib4#2]
```lean
import Mathlib.Combinatorics.SimpleGraph.Walks.Operations
namespace SimpleGraph.Walk
variable {V : Type*} {G : SimpleGraph V} {u v : V} (p : G.Walk u v) (n m : ℕ)

-- place these below `take_add_eq` in `Walks/Operations.lean`

theorem take_drop_heq : (p.drop n).take m ≍ (p.take <| n + m).drop n := by
  sorry

theorem take_drop_eq : (p.drop n).take m = ((p.take <| n + m).drop n).copy
      (by grind [take_getVert]) (drop_getVert ..).symm := by
  sorry

theorem drop_take_heq : (p.take n).drop m ≍ (p.drop <| min n m).take (n - m) := by
  sorry

theorem drop_take_eq :
    (p.take n).drop m = ((p.drop <| min n m).take (n - m)).copy
      (take_getVert ..).symm (by grind [drop_getVert]) := by
  sorry
```
